US08383652B2
176 mg (4.4 mmol) of sodium hydroxide are added to a solution of 192 mg (0.44 mmol) of ethyl 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]pentanoate in 8 mL of ethanol. The reaction mixture is heated at 50° C. for 15 hours. The reaction medium is evaporated to dryness, taken up in water, acidified with 2 N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over magnesium sulfate. The solvent is evaporated off and the solid obtained is purified by chromatography on a column of silica eluted with a 50/50 heptane/ethyl acetate mixture. The solvents are evaporated off and the oil obtained is crystallized from ethyl ether, filtered and dried. 133 mg (74%) of 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]pentanoic acid are obtained in the form of a white powder with a melting point of 118-119° C.

reactant | sodium hydroxide | 4.4 mmol, 176 mg | [OH-].[Na+]
reactant | ethyl 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]pentanoate | 0.44 mmol, 192 mg | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CCC | C27H36N2O3
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]pentanoic acid | 133 mg, 74% | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)O)/CCC | C25H32N2O3
